US04423234
In a manner similar to Example 1, the reaction of 3-chloroaniline (38.3 g, 0.30 mole) with t-butyl nitrite (46.4 g, 0.45 mole) in the presence of copper powder (15.0 g, 0.24 mole) and 4Å molecular sieves (powdered, 15.0 g) in benzene (1650 ml) produced 3-chloro[1,1'-biphenyl] (38.4 g, 67.6% yield, bp 96°/0.15 mm) as an oil. When the experiment was repeated the yield was 65.7%

reactant | 3-chloroaniline | 0.30 mole, 38.3 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | t-butyl nitrite | 0.45 mole, 46.4 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | benzene | 1650 ml | C1=CC=CC=C1 | C6H6
catalyst | copper | 0.24 mole, 15.0 g | [Cu] | Cu
product | 3-chloro[1,1'-biphenyl] | 38.4 g, 67.6% yield | ClC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Cl
